data/mechanism_extracts/JACS/10.1021_jacs.4c13682.json
{"doi": "10.1021_jacs.4c13682", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical metal-free 1,2-syn-cyano-hydroxylation of alkenes via a telescoped 1,3-dipolar cycloaddition with a sulfonyl-nitrile oxide followed by cathodic SET-induced radical ring-opening (sew & cut)", "mechanism_family": ["radical_cathodic", "direct_SET", "paired_electrolysis", "concerted"], "electrochemical_role": "Cathodic SET reduction of the C=N (oxime) moiety of the 3-sulfonyl-isoxazoline cycloadduct generates a radical anion that expels arylsulfinate to form an imidoyl radical, which undergoes β-scission; anode performs oxidation of Et3N (or 1,4-cyclohexadiene) as sacrificial reductant to close the circuit", "key_intermediates": [{"name": "sulfonyl-nitrile oxide (1,3-dipole I)", "smiles": null, "role": "reactive"}, {"name": "3-sulfonyl-isoxazoline cycloadduct 2", "smiles": null, "role": "transient"}, {"name": "radical anion IX (cathodic SET adduct of cycloadduct)", "smiles": null, "role": "transient"}, {"name": "imidoyl radical X (after ArSO2- loss)", "smiles": null, "role": "reactive"}, {"name": "oxygen-centered radical XI (after β-scission)", "smiles": null, "role": "reactive"}, {"name": "alkoxide (cathodic reduction of XI)", "smiles": null, "role": "transient"}, {"name": "furoxan 11 (dimer of nitrile oxide I)", "smiles": null, "role": "off_pathway"}, {"name": "β-elimination olefin 26 (loss of ArFSO2H)", "smiles": null, "role": "off_pathway"}, {"name": "α-oxy radical VIII from radical Brook rearrangement (with C5-silyl substrate)", "smiles": null, "role": "off_pathway"}], "electron_flow": "In situ generated sulfonyl-nitrile oxide undergoes metal-free 1,3-dipolar cycloaddition with the alkene to give an isoxazoline cycloadduct; cathodic single-electron reduction of its C=N bond yields a radical anion that ejects arylsulfinate to form an imidoyl radical, which fragments by radical β-scission of the N–O bond to release a nitrile and an oxygen-centered radical, the latter being further reduced at the cathode and protonated to deliver the 1,2-syn-cyano-hydroxylation product.", "rate_determining_step": "Radical β-scission of the imidoyl radical X (isoxazoline ring-opening) following SET reduction and sulfinate loss", "probe_reagents": [{"name": "cyclopropene-derived cycloadduct 18 (radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "Electrolysis afforded β-hydroxy aldehyde 19 (70%) and over-reduced alcohol 20 (28%); no β-hydroxy-imine or β-hydroxy-amine (excluding path A) and no tertiary-radical product 21/22 from cyclopropane opening (excluding path C), consistent with path B: SET to C=N, sulfinate loss, then fast isoxazoline β-scission outcompeting cyclopropane opening"}, {"name": "3-bromo-isoxazoline 12", "smiles": null, "purpose": "redox_probe", "observation": "Gave product 9 in 33% with 66% recovered SM, showing a good anionic leaving group at C3 is required"}, {"name": "3-ester isoxazoline 13 and 3-alkyl isoxazoline 14", "smiles": null, "purpose": "redox_probe", "observation": "No fragmentation product formed; confirms need for an expellable anionic LG (ArSO2-, Br) at C3"}, {"name": "C3-carboxylate 15 (anodic decarboxylation under alternating polarity)", "smiles": null, "purpose": "intermediate_trap", "observation": "Delivered 9 in 9% NMR yield, showing pendant redox handle can also trigger ring-opening"}, {"name": "NHPI ester 16 (cathodic activation)", "smiles": null, "purpose": "intermediate_trap", "observation": "Gave syn-hydroxy nitrile 9 in complex mixture, supporting analogous radical fragmentation"}, {"name": "C5-trimethylsilyl cycloadduct 23 (Brook probe)", "smiles": null, "purpose": "intermediate_trap", "observation": "Furnished silyl ether 24 (64%) via radical Brook rearrangement of oxygen-centered radical VII to α-oxy radical VIII, confirming oxygen-centered radical intermediate"}, {"name": "cyclic voltammetry of cycloadduct 8 and analogs 12–16", "smiles": null, "purpose": "redox_probe", "observation": "Two reduction peaks at Epc = -1.01 V (oxime C=N) and -2.10 V (aryl sulfone); first reduction at oxime triggers fragmentation"}, {"name": "1,4-cyclohexadiene (sacrificial reductant at anode)", "smiles": "C1=CCC=CC1", "purpose": "other", "observation": "Serves as competent anodic sacrificial reductant, easing purification by avoiding nonvolatile byproducts"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate", "intermediate_trap_other"], "evidence_strength": "strong", "notes": "Three pathways were considered for cycloadduct fragmentation: path A (cathodic N–O cleavage to distonic radical anion III) was ruled out by absence of β-hydroxy-imine/amine; path C (cyclopropane ring-opening dominant) was ruled out by absence of stabilized tertiary-radical products 21/22; favored path B involves SET to C=N then sulfinate loss and β-scission. Minor side pathway: with C5-silyl substrates a radical Brook rearrangement diverts the oxygen-centered radical to an α-oxy radical, giving silyl ether instead of the cyano-hydroxylation product. Furoxan 11 (nitrile oxide dimer) is a stoichiometric byproduct consumed during the first ~1 F/mol of electrolysis."}
